US04704227
2.96 gms. of 3-fluoro-4-(5-pentyl-1,3-dioxan-2-yl)-benzoic acid (prepared from 2-fluoro-4-bromotoluene by reaction with magnesium according to Grignard and reaction with carbon dioxide giving 3-fluoro-4-methyl-benzoic acid, esterification thereof with ethanol/sulfuric acid giving ethyl 3-fluoro-4-methyl-benzoate, bromination by bromine or N-bromo-succinimide giving ethyl 3-fluoro-4-bromomethylbenzoate, oxidation by dilute nitric acid giving 3-fluoro-terephthalic aldehydic acid and ketalization thereof with 2-pentyl-propane-1,3-diol) and 2.0 gms. of SOCl2 are boiled for 1 hour, then evaporated and the crude acid chloride thus obtained is dissolved in 20 ml of toluene and then 1.5 ml of pyridine and 1.10 gms. of 4-cyano-phenol are added and then boiled for two hours. After separation the organic phase is washed with water, dried over sodium sulfate and evaporated leaving behind 4-cyanophenyl 3-fluoro-4-(5-pentyl-1,3-dioxan-2-yl)-benzoate.

reactant | 3-fluoro-4-(5-pentyl-1,3-dioxan-2-yl)-benzoic acid | FC=1C=C(C(=O)O)C=CC1C1OCC(CO1)CCCCC | C16H21FO4
reactant | 2-fluoro-4-bromotoluene | FC1=C(C=CC(=C1)Br)C | C7H6BrF
reactant | magnesium | [Mg] | Mg
reactant | carbon dioxide | C(=O)=O | CO2
product | 3-fluoro-4-methyl-benzoic acid | FC=1C=C(C(=O)O)C=CC1C | C8H7FO2
